US04139537
18 Grams of 3-(1-naphthoxy)-1-(2-methoxycarbonylimino-1,2-dihydro-1-pyridyl)-2-methoxycarbonyloxypropane were dissolved in about 50 ml of absolute ethanol. Concentrated hydrochloric acid was added dropwise until the pH was 1.0. The mixture was heated until a homogeneous solution was obtained and additional hydrochloric acid was added to bring the pH to 1.0. The solvent was evaporated under vacuum and the residual oil was dissolved in 25 milliliters of hot isopropyl alcohol. The product which crystallized on cooling was collected on a filter, washed with isopropyl alcohol, and dried to yield 3-(1-naphthoxy)-1-(2-chloro-2-methoxycarbonylamino-1,2-dihydro-1-pyridyl)-2-methoxycarbonyloxypropane. M.P. 133°-135° C.

reactant | 3-(1-naphthoxy)-1-(2-methoxycarbonylimino-1,2-dihydro-1-pyridyl)-2-methoxycarbonyloxypropane | C1(=CC=CC2=CC=CC=C12)OCC(CN1C(C=CC=C1)=NC(=O)OC)OC(=O)OC | C22H22N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | about 50 ml | C(C)O | C2H6O
product | 3-(1-naphthoxy)-1-(2-chloro-2-methoxycarbonylamino-1,2-dihydro-1-pyridyl)-2-methoxycarbonyloxypropane | C1(=CC=CC2=CC=CC=C12)OCC(CN1C(C=CC=C1)(NC(=O)OC)Cl)OC(=O)OC | C22H23ClN2O6
